US05506256
C) (S)-(-)-4-Methoxyphenyl methyl sulfoxide
To titanium tetraisopropoxide (1.49 ml) in dichloromethane (50 ml) were added diethyl (S,S)-tartrate (1.71 ml) and water (90 μl), and the mixture was stirred at room temperature for 20 minutes. After 1-methoxy-4-(methylthio)benzene (0.69 ml) was dropwise added, the reaction mixture was cooled to -20° C., dropwise added with 3.07M t-butylhydroperoxide-toluene solution (1.8 ml), and stirred at -20° C. for 15 hours. Water (0.9 ml) was added, and the mixture was stirred at -20° C. for 1 hour, and then at room temperature for 1 hour. A small amount of alumina was added, and the reaction mixture was suction-filtered with celite and washed well with dichloromethane. The filtrate and the washing were combined, added with 5% sodium hydroxide-saturated brine and stirred at room temperature for 1 hour. The organic layer was separated, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluate; ethyl acetate), and the residue (730 mg) was recrystallized from ether-pentane to give 586 mg of the title compound, [α]D -103° C. (c=1.98, acetone).

reactant | diethyl (S,S)-tartrate | 1.71 ml | C(=O)(OCC)[C@@H](O)[C@H](O)C(=O)OCC | C8H14O6
reactant | water | 90 μl | O | H2O
reactant | 1-methoxy-4-(methylthio)benzene | 0.69 ml | COC1=CC=C(C=C1)SC | C8H10OS
reactant | t-butylhydroperoxide toluene | 3.07M, 1.8 ml | C(C)(C)(C)OO.C1(=CC=CC=C1)C
reactant | Water | 0.9 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | titanium tetraisopropoxide | 1.49 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | (S)-(-)-4-Methoxyphenyl methyl sulfoxide | 586 mg | C[S@](=O)C1=CC=C(C=C1)OC | C8H10O2S
